US05665718
16 g (31.85 mmol) of (S)-8-chloro-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one were treated with 100 ml of methylamine (33% in ethanol). The solution was stirred at 70° for 1 hour and subsequently cooled. The suspension obtained was filtered and the crystallizate was partially dissolved in 100 ml of methylene chloride. By filtering and evaporating the filtrate there were obtained 11.7 g (99%) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was used without further purification as the starting material for the Example described hereinafter.

reactant | (S)-8-chloro-7-fluoro-12,12a-dihydro-1-(3-phthalimidomethyl-1,2,4-oxadiazol-5-yl)-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 31.85 mmol, 16 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C3=NC(=NO3)CN3C(C=2C(C3=O)=CC=CC2)=O)CC1)=O)F | C24H14ClFN6O4
solvent | methylamine | 100 ml | CN | CH5N
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 11.7 g, 99% | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1 | C16H12ClFN6O2
